US09079853B2
1-butyl-5-chloro-3-hydroxy-3-(3-methoxybenzyl)indolin-2-one
This compound was made in an analogous fashion to 11-ethyl-3-hydroxy-5-methyl-3-(3,4,5-trimethoxybenzyl)indolin-2-one using 1-butyl-5-chloro-3-(3,5-dimethoxybenzyl)-3-hydroxyindolin-2-one and 3-methoxy benzyl chloride (purchased from Fisher Scientific). 1H NMR δ 7.31 (s, 1H), 7.24 (d, 1H), 7.02 (t, 1H), 6.69 (d, 1H), 6.59 (d, 1H), 6.52 (d, 1H), 6.43 (s, 1H), 3.64 (m, 4H), 3.30 (m, 2H), 3.20 (d, 1H), 1.6 (bs, OH), 1.30 (m, 2H), 1.11 (m, 2H), 0.84 (t, 3H). Calculated mass for C20H22ClNO3, 359.13. Observed 382.2 (M+Na).

reactant | 1-butyl-5-chloro-3-(3,5-dimethoxybenzyl)-3-hydroxyindolin-2-one | C(CCC)N1C(C(C2=CC(=CC=C12)Cl)(O)CC1=CC(=CC(=C1)OC)OC)=O | C21H24ClNO4
reactant | 3-methoxy benzyl chloride | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | 1-butyl-5-chloro-3-hydroxy-3-(3-methoxybenzyl)indolin-2-one | C(CCC)N1C(C(C2=CC(=CC=C12)Cl)(CC1=CC(=CC=C1)OC)O)=O | C20H22ClNO3
